US07560569B2
In a similar manner to Example 13, (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazol-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and 3,3-difluoropyrrolidine hydrochloride (18.7 mg) were used to obtain (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(3,3-difluoropyrrolidin-1-yl)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (40.8 mg).

reactant | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazol-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)ON2N=NC1=C2C=CC=C1)CC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C30H31FN6O5
reactant | 3,3-difluoropyrrolidine hydrochloride | 18.7 mg | Cl.FC1(CNCC1)F
product | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(3,3-difluoropyrrolidin-1-yl)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 40.8 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)N2CC(CC2)(F)F)CC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C28H33F3N4O4
